### PR TITLE
fix: wrong precedence with `answer(sorry)`

### PR DESCRIPTION
**Pull request by mo271**

### CODE REVIEW

**Comment by mo271** [comment]
I wonder if it makes sense to try to lint against (some of) these kind of errors.

It might already help to establish the convention 
```lean
answer(sorry) ↔ foo
```
instead of 
```lean
foo ↔ answer(sorry)
```

**Comment by YaelDillies** [comment]
Yes, I believe we should switch to that new convention. I've seen misparenthesizations in PRs countless times.

File: FormalConjectures/ErdosProblems/26.lean [hunk 1]
```diff
@@ -88,8 +88,8 @@ there exist some $k\geq 1$ such that almost all integers have a divisor of the f
 for some $a\in A$?
 -/
 @[category research open, AMS 11]
-theorem erdos_26 (A : ℕ → ℕ) (hA : StrictMono A) (h : IsThick A) :
-    (∃ k, IsBehrend (A · + k)) ↔ answer(sorry) := by
+theorem erdos_26 : (∀ᵉ (A : ℕ → ℕ) (hA : StrictMono A) (h : IsThick A),
+    (∃ k, IsBehrend (A · + k))) ↔ answer(sorry) := by
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/26.lean]:
```suggestion
    ∃ k, IsBehrend (A · + k)) ↔ answer(sorry) := by
```

File: FormalConjectures/ErdosProblems/26.lean [hunk 2]
```diff
@@ -88,8 +88,8 @@ there exist some $k\geq 1$ such that almost all integers have a divisor of the f
 for some $a\in A$?
 -/
 @[category research open, AMS 11]
-theorem erdos_26 (A : ℕ → ℕ) (hA : StrictMono A) (h : IsThick A) :
-    (∃ k, IsBehrend (A · + k)) ↔ answer(sorry) := by
+theorem erdos_26 : (∀ᵉ (A : ℕ → ℕ) (hA : StrictMono A) (h : IsThick A),
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/26.lean]: Maybe
```suggestion
theorem erdos_26 : (∀ A : ℕ → ℕ, StrictMono A → IsThick A →
```

**Comment by mo271** [comment]
it won't help against
```lean
theorem foo (n : Nat) : answer(sorry) ↔ foo
```

File: FormalConjectures/ErdosProblems/26.lean [hunk 3]
```diff
@@ -106,8 +106,8 @@ some $k=k(\epsilon)$ such that at least $1-\epsilon$ density of all integers hav
 divisor of the form $a+k$ for some $a\in A$.
 -/
 @[category research open, AMS 11]
-theorem erdos_26.variants.tenenbaum (A : ℕ → ℕ) (hA : StrictMono A) (h : IsThick A) :
-    (∀ ε > (0 : ℝ), ∃ k, IsWeaklyBehrend (A · + k) ε) ↔ answer(sorry) := by
+theorem erdos_26.variants.tenenbaum : (∀ᵉ (A : ℕ → ℕ) (hA : StrictMono A) (h : IsThick A),
+    (∀ ε > (0 : ℝ), ∃ k, IsWeaklyBehrend (A · + k) ε)) ↔ answer(sorry) := by
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/26.lean]: Similarly here

File: FormalConjectures/ErdosProblems/123.lean [hunk 4]
```diff
@@ -69,9 +69,9 @@ Note: For this not to reduce to the two-integer case, we need the integers
 to be greater than one and distinct.
 -/
 @[category research open, AMS 11]
-theorem erdos_123 (a b c : ℕ) (ha : a > 1) (hb : b > 1) (hc : c > 1)
-    (h_coprime : PairwiseCoprime a b c) :
-    IsDComplete (↑(powers a) * ↑(powers b) * ↑(powers c)) ↔ answer(sorry) := by sorry
+theorem erdos_123 : (∀ᵉ (a : ℕ) (b : ℕ) (c : ℕ) (ha : a > 1) (hb : b > 1) (hc : c > 1)
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/123.lean]:
```suggestion
theorem erdos_123 : (∀ a > 1, ∀ b > 1, ∀ c > 1,
```

File: FormalConjectures/ErdosProblems/26.lean (hunk 3 above)
Comment (mo271) [reply FormalConjectures/ErdosProblems/26.lean]: done

File: FormalConjectures/Other/BeaverMathOlympiad.lean [hunk 5]
```diff
@@ -65,12 +65,12 @@ The machine was discovered by [bbchallenge.org](bbchallenge.org) contributor Jas
...
 @[category research open, AMS 5 11 68]
-theorem busy_beaver_math_olympiad_problem_1 (a : ℕ → ℕ) (b : ℕ → ℕ)
+theorem busy_beaver_math_olympiad_problem_1 : (∀ᵉ (a : ℕ → ℕ) (b : ℕ → ℕ)
     (a_ini : a 0 = 1)
     (a_rec : ∀ n, a (n + 1) = if b n ≤ a n then a n - b n else 2 * a n + 1)
     (b_ini : b 0 = 2)
-    (b_rec : ∀ n, b (n + 1) = if b n ≤ a n then 4 * b n + 2 else b n - a n):
-    (∃ i, a i = b i) ↔ answer(sorry) := by
+    (b_rec : ∀ n, b (n + 1) = if b n ≤ a n then 4 * b n + 2 else b n - a n),
+    (∃ i, a i = b i) ↔ answer(sorry)) := by
```
Comment (YaelDillies) [inline FormalConjectures/Other/BeaverMathOlympiad.lean]: Still looks wrong

File: FormalConjectures/Other/BeaverMathOlympiad.lean [hunk 6]
```diff
@@ -65,12 +65,12 @@ The machine was discovered by [bbchallenge.org](bbchallenge.org) contributor Jas
 June 25th 2024.
 -/
 @[category research open, AMS 5 11 68]
-theorem busy_beaver_math_olympiad_problem_1 (a : ℕ → ℕ) (b : ℕ → ℕ)
+theorem busy_beaver_math_olympiad_problem_1 : (∀ᵉ (a : ℕ → ℕ) (b : ℕ → ℕ)
```
Comment (eric-wieser) [inline FormalConjectures/Other/BeaverMathOlympiad.lean]: I'd strongly recommend always wrapping at the `:` in a multi-line statement.

Comment (mo271) [reply FormalConjectures/Other/BeaverMathOlympiad.lean]: done

File: FormalConjectures/Other/BeaverMathOlympiad.lean (hunk 5 above)
Comment (mo271) [reply FormalConjectures/Other/BeaverMathOlympiad.lean]: moved the closing parenthesis to the correct place now...

**Comment by Paul-Lez** [comment]
I can have a go at writing the linter.

> I wonder if it makes sense to try to lint against (some of) these kind of errors.
> 
> It might already help to establish the convention
> 
> ```lean
> answer(sorry) ↔ foo
> ```
> 
> instead of
> 
> ```lean
> foo ↔ answer(sorry)
> ```

**Review by YaelDillies — APPROVED** [review]
